US07632837B2
56C. Preparation of N′-(5-bromo-4-(4-chlorophenyl)pyridin-2-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetohydrazide
To a suspension of 5-bromo-4-(4-chlorophenyl)-2-hydrazinylpyridine (37 mg, 0.12 mmol), 2-(6-(trifluoromethyl)pyridin-3-yl)acetic acid (26 mg, 0.12 mmol) and bromotripyrrolidinophosphonium hexafluorophosphate (PyBop, 70 mg, 0.13 mmol) in CH3CN (1.0 mL) was added (i-Pr)2EtN (32 mg, 0.25 mmol) at 20° C. The reaction mixture was stirred at 20° C. under argon for 15 h, then concentrated in vacuo. The residue was dissolved in EtOAc (15 mL). The organic solution was successively washed with saturated aqueous NaHCO3 (5 mL) and saturated aqueous NaCl (5 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was purified using reverse phase preparative HPLC (Conditions: Phemomenex Luna 5μ C18 30×75 mm; Eluted with 0% to 100% B, 10 min gradient, 100% B hold for 2 min, (A=90% H2O, 10% CH3CN, 0.1% trifluoroacetic acid and B=10% H2O, 90% CH3CN, 0.1% trifluoroacetic acid); Flow rate at 40 mL/min, UV detection at 220 nm), followed by basification with 1N aqueous NaOH to pH 12 and extraction with EtOAc to afford 54 mg (92%) of the title compound as a white solid. LC/MS (method B): retention time=1.91 min, [M+H]+=487.0.

reactant | 5-bromo-4-(4-chlorophenyl)-2-hydrazinylpyridine | 0.12 mmol, 37 mg | BrC=1C(=CC(=NC1)NN)C1=CC=C(C=C1)Cl | C11H9BrClN3
reactant | 2-(6-(trifluoromethyl)pyridin-3-yl)acetic acid | 0.12 mmol, 26 mg | FC(C1=CC=C(C=N1)CC(=O)O)(F)F | C8H6F3NO2
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 0.13 mmol, 70 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | (i-Pr)2EtN | 0.25 mmol, 32 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 1.0 mL | CC#N | C2H3N
product | N′-(5-bromo-4-(4-chlorophenyl)pyridin-2-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetohydrazide | 54 mg, 92% | BrC=1C(=CC(=NC1)NNC(CC=1C=NC(=CC1)C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C19H13BrClF3N4O
